US06274588B1
A solution of 1.95 g (5.64 mmol) methyl-(2-methylsulfanyl-4-o-tolyl-pyrimidin-5-yl)-carbamic acid tert-butyl ester in 30 ml MeOH/HCl (2N) was stirred at 50° for 3 hr. After evaporation of the solvent, the residue was distributed between 40 ml 1N NaOH and 40 ml CH2Cl2. The phases were separated, the aqueous layer washed twice with 50 ml CH2Cl2. The combined organic layers were dried (Na2SO4), filtered and evaporated. The residue was purified by chromatography (SiO2, CH2Cl2/ethyl acetate 10:1) to give 1.30 g (94%) methyl-(2-methylsulfanyl-4-o-tolyl-pyrimidin-5-yl)-amine as a white solid, MS (EI): 245 (M+).

reactant | methyl-(2-methylsulfanyl-4-o-tolyl-pyrimidin-5-yl)-carbamic acid tert-butyl ester | 5.64 mmol, 1.95 g | C(C)(C)(C)OC(N(C=1C(=NC(=NC1)SC)C1=C(C=CC=C1)C)C)=O | C18H23N3O2S
solvent | MeOH HCl | 2N, 30 ml | CO.Cl
product | methyl-(2-methylsulfanyl-4-o-tolyl-pyrimidin-5-yl)-amine | 1.30 g, 94% | CNC=1C(=NC(=NC1)SC)C1=C(C=CC=C1)C | C13H15N3S
